US07425568B2
2-(4-Trifluoromethylphenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 860 mg of 2-(4-trifluoromethylphenyl)-6-hydroxychroman-4-one. 1H NMR (400 MHz, d6-DMSO) δ: 8.86 (s, 1H), 7.77 (d, 2H, J 8.3 Hz), 7.68 (d, 2H, J 8.3 Hz), 6.89 (d, 1H, J 2.9 Hz), 6.63 (d, 1H, J 8.7 Hz), 6.56 (dd, 1H, J 8.7, 2.9 Hz), 5.45 (d, 1H, J 7.0 Hz), 5.26 (d, 1H, J 11.2 Hz), 4.90 (m, 1H), 2.32 (m, 1H), 1.85 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 2-(4-trifluoromethylphenyl)-6-hydroxychroman-4-one | 860 mg | FC(C1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)=O)O)(F)F | C16H11F3O3
product | 2-(4-Trifluoromethylphenyl)chroman-4,6-diol | FC(C1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)O)O)(F)F | C16H13F3O3
